US05245039
Under inert gas atmosphere Ac2O (43 mcl) is added to a stirred solution of (-)-2,6-dimethyl-3-carboethoxy-5-carbomethoxy-4-(3-aminophenyl)-1,4-dihydropyridine (100 mg) in pyridine (ml 1). 90 minutes after dilution with water (ml 50), extraction with AcOEt (3×10 ml) and crystallization from Et2O 70/EtOH 10, give mg 85 of +)-2,6-dimethyl-3-carboethoxy-5-carbomethoxy-4-(3-acetylaminophenyl)-1,4-dihydropyridine m.p. 197°-199° C. [α]D =+0.87°, [α]578 =+2.00°, [α]546 =+1.64° c=2.2 DMF.

reactant | Ac2O | CC(=O)OC(=O)C | C4H6O3
reactant | (-)-2,6-dimethyl-3-carboethoxy-5-carbomethoxy-4-(3-aminophenyl)-1,4-dihydropyridine | 100 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)N)C(=O)OC)C | C18H22N2O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,6-dimethyl-3-carboethoxy-5-carbomethoxy-4-(3-acetylaminophenyl)-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)NC(C)=O)C(=O)OC)C | C20H24N2O5
